Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
clindamycin
 
Attending: ___.
 
Chief Complaint:
Dizziness 
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ with asthma, recurrent ear infections, and migraines (none 
in ___ years) transferred from ___ for MRI in 
setting of right ear pain since ___ (with "dull" right-sided 
hearing loss for several days) with sudden-onset R neck pain, 
body pain, and vertigo. Per patient, she was at work today when 
she suddenly became "blackout dizzy" and felt the room sway 
around her. This occurred after lunch while sitting down and 
lasted for ___ seconds She had approximately 40 other episodes 
over the ensuing 5 hours before she could leave work and go to 
the hospital. She had 2 falls (to her knees), no headstrike, no 
loss of consciousness. She also endorses intermittent nausea but 
no vomiting; intermittent diaphoresis; and perioral 
paresthesias. Shooting pain from the back of her right ear 
initially down her right arm, associated with some weakness. She 
has had intermittently blurry and double vision. She endorsed a 
global headache since ___, without loss of bowel or bladder 
function or back discomfort. Of note, she described L leg pain 
and weakness at ___ but not at ___.

Had negative head CT at ___.

In ___ ED, she denied ear drainage. She has noted congestion, 
sore throat, and mild cough since arrival at ___, as well as 
some rhinorrhea and itchy eyes for a few weeks, which she 
attributes to allergies. She denied pain anywhere else over her 
body. However, she reported extreme, near-constant dizziness 
since ___, as though the room is swaying around her, unchanged 
by position and persistent even with closed eyes. 

In the ED, initial vitals were:  pain ___, T 97.4, HR 100, BP 
100/56, R 18, SpO2 98%/RA 

ED exam was notable for falling asleep multiple times throughout 
interview, despite active questioning. EOMI. PERRL. Right ear 
with erythema in external canal; tympanic membrane with fluid 
bilaterally. Chest clear to auscultation; normal S1 and S2, no 
murmur. Abdomen soft nondistended nontender. No focal 
neurological abnormalities. CNII-XII intact; though reports 
decreased sensation on R over V1 distribution.

Labs significant for mild thrombocytopenia (129), negative 
toxicology screen and otherwise entirely normal labs. 

CT Angiogram IMPRESSION: No acute intracranial process. MRI 
would be more sensitive for detection of acute ischemia. 
Unremarkable CTA of the head and neck vessels. No evidence of 
dissection, occlusion, or stenosis. Final read pending 3D 
reformats.

The patient was given 2L NS, meclizine & diazepam.

Vitals on transfer: pain ___, T 98.6, HR 51, BP 103/54, R 14, 
SpO2 100%/RA. 

On the floor, patient endorsed continued dizziness (described as 
room swaying), R ear pain radiating to R neck, R dull hearing 
loss, blurry vision. Reports ___ history of R sided 
peripheral vision loss. Adds she has experienced this before 
when ___ years old in setting dehydration that led to seizure.  

Review of systems:  
(+) Per HPI  
(-) Denies fever, recent weight loss or gain. No tinnitus. 
Denies shortness of breath, palpitations. Denies vomiting. No 
dysuria, frequency, urgency.
 
Past Medical History:
Asthma- mild intermittent 
Eczema
Tobacco abuse 
Migraine - none for ___ years, R shooting pain radiating to 
occiput with photophobia, nausea/vomiting
R peripheral vision loss - ___ years (first described while 
pregnant)
Recurrent ear infections
Bipolar type II - untreated 
MRSA cellulitis 
Thrombocytopenia 
Irregular menstrual cycle 
Abnormal pap smear with HPV 
HSV 2 - ___, no h/o lesions
?Chronic abdominal/pelvic pain - with dyspareunia, coital 
bleeding   
?Seizures - at age ___ while dehydrated
Pes planus
Back pain 
Patellofemoral syndrome
 
Social History:
___
Family History:
Sister - born ___, stroke at ___, hx MI, currently healthy. 
Mother - thyroid problem, COPD (smoker), ?clot in R arm
Father - COPD (smoker), deceased at ___ 
Maternal grandmother - ___ 
No family history of MS or neurological abnormalities.
 
Physical Exam:
ADMISSION EXAM: 
===============
VITALS - T 98.6 BP 121/65 P 56 R 18 O2 Sat 100% RA
GENERAL - Caucasian woman sitting up in bed, awake and able to 
answer questions, in no acute distress. 
HEENT - ___ with serous fluid bilaterally, bulging, pain with 
traction of R ear. No pus, hemorrhage, or erythema apparent 
bilaterally. Tenderness over right mastoid process w/o warmth or 
erythema. Unable to hear finger rub on R side. Poor dentition 
particularly back molars. No tenderness along mandible. 
Oropharynx clear, tongue piercing. Sclera anicteric, PERRLA, 
EOMi with no nystagmus at rest or at lateral fields, peripheral 
R vision loss consistent with history, L central and peripheral 
vision intact. 
NECK - Supple, full active ROM with pain moving to R. No 
lymphadenopathy. 
CARDIAC - Bradycardic, regular rhythm with no murmurs, rubs, 
gallops. 
PULMONARY - CTAB with no wheezes, crackles, rhonchi. 
ABDOMEN - Soft, non-distended, non-tender to palpation. 
Normoactive bowel sounds. No organomegaly. 
EXTREMITIES - Warm, well perfused. No calf tenderness, no edema. 
 
NEUROLOGIC - CN ___ intact, strength ___ in shoulder, elbow, 
knee and ankle flexor/extensor and hip extensor. no pronator 
drift. Present symmetric reflexes (Achilles, patellar, biceps). 
Sensation grossly intact to light touch. Romberg negative. Rapid 
alternating movements intact. Posture normal. Would not 
participate in tandem gait or heel-and-toe walking. Gait normal. 

PSYCHIATRIC - Appropriate affect  
SKIN - Tattoo over R wrist. No rashes observed.

DISCHARGE EXAM:
=============== 
VITALS - T 98.6 BP 121/65 P 56 R 18 O2 Sat 100% RA
GENERAL - Caucasian woman lying in bed, awake and able to answer 
questions, in no acute distress. 
HEENT - ___ clear with visible cone of light bilaterally, mild 
pain with traction of R ear. No pus, hemorrhage, or erythema 
apparent bilaterally. Hearing intact to finger rub bilaterally. 
Oropharynx clear, tongue piercing. Sclera anicteric, EOMi with 
no nystagmus at rest or at lateral fields. 
CARDIAC - Bradycardic, regular rhythm with no murmurs, rubs, 
gallops. 
PULMONARY - CTAB with no wheezes, crackles, rhonchi. 
ABDOMEN - Soft, non-distended, non-tender to palpation. No 
organomegaly.  
NEUROLOGIC - Face symmetric. Sensation grossly intact to light 
touch. Rapid alternating movements intact. Finger-nose and 
heel-shin intact. Posture normal. Romberg negative. Gait, 
heel-and-toe walking, tandem gait normal. No nystagmus.
PSYCHIATRIC - Appropriate affect  
SKIN - Tattoo over R wrist. No rashes observed.

 
Pertinent Results:
LABS
====
___ 01:40PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:40PM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 01:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 01:40PM URINE  RBC-4* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-9
___ 01:40PM URINE  MUCOUS-RARE
___ 02:12AM   GLUCOSE-85 UREA N-11 CREAT-0.6 SODIUM-142 
POTASSIUM-3.8 CHLORIDE-111* TOTAL CO2-24 ANION GAP-11
___ 02:12AM   ALT(SGPT)-10 AST(SGOT)-11 ALK PHOS-69 TOT 
BILI-0.5
___ 02:12AM   ALBUMIN-3.6
___ 02:12AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:12AM   WBC-6.4 RBC-3.93 HGB-11.6 HCT-35.3 MCV-90 
MCH-29.5 MCHC-32.9 RDW-12.6 RDWSD-41.7
___ 02:12AM   NEUTS-45.0 ___ MONOS-8.6 EOS-2.8 
BASOS-0.5 IM ___ AbsNeut-2.87 AbsLymp-2.73 AbsMono-0.55 
AbsEos-0.18 AbsBaso-0.03
___ 02:12AM   PLT COUNT-129*

IMAGING
=======
___ CTA HEAD & CTA NECK IMPRESSION: 
1.  No hemorrhage, edema, mass effect, or acute infarction.
2.  Normal head and neck CTA.
 
Brief Hospital Course:
Ms. ___ is a ___ with asthma, seasonal allergies, 
recurrent ear infections, and remote history of migraines, 
presenting with acute onset vertigo ___ in setting of R ear 
pain since ___ and new rhinorrhea, cough, sore throat, and 
itchy eyes, consistent with tympanic membrane effusion in the 
setting of allergies or possible viral otitis media, improved 
overnight with loratadine, pseudoephedrine and ibuprofen.

ACTIVE ISSUES
=============
# DIZZINESS: Likely effusion in the setting of allergies or URI 
given fluid behind tympanic membranes, R ear pain and hearing 
loss, rhinorrhea. Effusion/pressure contributing to 
vertigo/instability. Also considered viral otitis media given 
history of recurrent ear infections. Tachycardia and lower BP 
(100/56) improved by arrival to ___. Though pt has family 
history concerning for thrombophilic events, pan-negative 
neurology exam and negative CT/CTA reassuring for no central or 
thrombotic process. Neurology consult in emergency room 
concurred. Absence of nystagmus suggested no vestibular 
neuritis. She was given PO loratadine and pseudoephedrine and 1L 
IV NS while in house. She was discharged with oral loratadine 
and pseudoephedrine and instructed to ___ with PCP. 
  
CHRONIC ISSUES
=============
# ASTHMA: Continued albuterol inhaler PRN. 

TRANSITIONAL ISSUES
===================
# ALLERGY MEDICATIONS: Started on loratadine and pseudoephedrine 
as well as ibuprofen to manage presumed allergies with effusion 
and inflammation of Eustachian tubes. Recommended continuing the 
loratadine, pseudephedrine x ___ days and can trial herself 
off of medications at that point. ___ discuss with PCP taking an 
___ allergy medication more regularly. Would also 
continue ibuprofen standing for several days given presumed 
Eustachian tube edema.

# RIGHT MASTOID TENDERNESS: No erythema or warmth concerning for 
mastoiditis, however, this merits observation given potential to 
otitis media to seed infection. 

# POOR DENTITION: Patient has a dentist. No mandibular 
tenderness concerning for dental abscess, plus stable vitals. 
PCP should encourage ___ as outpatient. 

#CHRONIC ABDOMINAL PAIN/DYSPARENURIA: Pt reported chronic 
abdominal pain with associated dyspareunia and coital bleeding. 
She has a history of abnormal PAP smear with HPV. Recommend 
___ by PCP or GYN, as she is overdue for repeat PAP.

#PROTEIN IN URINALYSIS: Recommend repeat urinalysis during PCP 
___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing 

 
Discharge Medications:
1.  Claritin-D 12 Hour (loratadine-pseudoephedrine) ___ mg 
oral BID Duration: 14 Days 
RX *loratadine-pseudoephedrine [Claritin-D 12 Hour] 5 mg-120 mg 
1 tablet(s) by mouth twice per day Disp #*28 Tablet Refills:*0 
2.  Ibuprofen 600 mg PO Q6H 
Please take every 6 hours for pain and swelling until ___, and 
then as needed.   
3.  Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
DIZZINESS, secondary to
OTITIS MEDIA WITH EFFUSION, caused by 
SEASONAL ALLERGIES

SECONDARY DIAGNOSIS
===================
BIPOLAR TYPE II
TOBACCO ABUSE
ASTHMA
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were seen in our hospital because you had right ear pain and 
sudden dizziness that caused you to become unsteady at work. We 
believe you became dizzy because you had fluid behind your 
eardrums. This is probably because of allergies. 

We gave you two allergy medicines, which helped your symptoms. 
Please continue to take these. You can also buy Claritin D over 
the counter, which works the same way. We also gave you some 
ibuprofen for pain and for swelling of the ear tubes.

We ruled out the most worrisome causes for your dizziness such 
as blood clots or bleeds in your brain. 

Please ___ at the ___ ___ within 
two weeks, by ___.

It was a pleasure caring for you! We wish you the best,
Your ___ Care Team 
 
Followup Instructions:
___